US06586441B2
(S)-2-Amino-4-furan-2-yl-6-(1-naphthalen-2-yl-ethylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, (S)-(−)-1-(2-naphthyl)ethylamine and DBU in DME. ES-MS m/e(%): 356 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | (S)-(−)-1-(2-naphthyl)ethylamine | C1=C(C=CC2=CC=CC=C12)[C@H](C)N | C12H13N
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | (S)-2-Amino-4-furan-2-yl-6-(1-naphthalen-2-yl-ethylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)N[C@@H](C)C1=CC2=CC=CC=C2C=C1 | C21H17N5O
